US07001588B2
2,5-bis(4-pyridylhydroxymethyl)selenophene was prepared by a reaction of 9.04 mL (0.09 mol) 4-pyrdinecarboxaldehyde with 3.5 mL (0.04 mol) selenophene by a procedure similar to that described above. The 2,5-bis(4-pyridylhydroxymethyl)selenophene was obtained in 20% yield. 1H NMR (DMSO-d6) δ 8.48 (d, J=3.4 Hz, 4H), 7.36 (d, J=3.4 Hz, 2H), 7 6.87 (s, 2H), 6.93 (s, 2H), 6.44 (brs, 2H), 5.82 (s, 2H); HRMS (FAB) (M+) calcd. for C16H15O2N2Se: 347.0299; found, 347.0301.

reactant | 4-pyrdinecarboxaldehyde | 0.09 mol, 9.04 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | selenophene | 0.04 mol, 3.5 mL | [Se]1C=CC=C1 | C4H4Se
product | 2,5-bis(4-pyridylhydroxymethyl)selenophene | N1=CC=C(C=C1)C(C=1[Se]C(=CC1)C(O)C1=CC=NC=C1)O | C16H14N2O2Se
